US06051210
c. 4-[[[3,5-Bis(acetylmethylamino)-2,4,6-triiodophenyl]carbonyl]amino]-benzenepentadecanoic acid (XIIe)
To a solution of 4-[[[3,5-bis(acetylmethylamino)-2,4,6-triiodophenyl]carbonyl]amino]-benzenepentadecanoic acid, 1,1-dimethylethyl ester XIe of Example 7b (30 mg, 0.3 mmol) in anisole (1 mL), was added trifluoroacetic acid (10 mL) and the mixture stirred at RT overnight (15 h). The solvents were removed in vacuo, and the residue crystalized from ethyl acetate to furnish pure XIIe as a white amorphous solid (205 mg, yield 70%, purity >98%). Additional product (35 mg, purity 96%) was obtained from the mother liquor for a total yield of 81%.

reactant | 4-[[[3,5-bis(acetylmethylamino)-2,4,6-triiodophenyl]carbonyl]amino]-benzenepentadecanoic acid, 1,1-dimethylethyl ester | C(C)(=O)CNC=1C(=C(C(=C(C1I)NCC(C)=O)I)C(=O)NC1=CC=C(C=C1)CCCCCCCCCCCCCCC(=O)OC(C)(C)C)I | C38H54I3N3O5
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
product | 4-[[[3,5-Bis(acetylmethylamino)-2,4,6-triiodophenyl]carbonyl]amino]-benzenepentadecanoic acid | yield 70% | C(C)(=O)CNC=1C(=C(C(=C(C1I)NCC(C)=O)I)C(=O)NC1=CC=C(C=C1)CCCCCCCCCCCCCCC(=O)O)I | C34H46I3N3O5
